US04211783
A mixture of 26.4 g. of ethyl N-{4-[13-(4-chlorophenyl)tridec-12-ynylamino]benzoyl}glycinate, 110 ml. of 1N sodium hydroxide solution; and 100 ml. of ethanol is stirred at ambient temperature for 2 hours and then partially evaporated. The aqueous solution is washed with diethyl ether, acidified with 6N hydrochloric acid, and filtered. The white solid is dried in vacuo and recrystallized from acetone to yield N-{4-[13-(4-chlorophenyl)tridec-12-ynylamino]benzoyl}glycine.

reactant | ethyl N-{4-[13-(4-chlorophenyl)tridec-12-ynylamino]benzoyl}glycinate | ClC1=CC=C(C=C1)C#CCCCCCCCCCCCNC1=CC=C(C(=O)NCC(=O)OCC)C=C1 | C30H39ClN2O3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | N-{4-[13-(4-chlorophenyl)tridec-12-ynylamino]benzoyl}glycine | ClC1=CC=C(C=C1)C#CCCCCCCCCCCCNC1=CC=C(C(=O)NCC(=O)O)C=C1 | C28H35ClN2O3
